US04824840
12.4 grams of 7-(3-chloropropoxy-3,4-dihydrocarbostyril, 1 g of pyridine and 2.6 g of 4-(3,4,5-trimethoxyphenyl)piperazine are mixed in 20 ml of dimethylsulfoxide, then stirred at 80°-90° C. for 5 hours. The reaction mixture is poured into 80 ml of 2% aqueous solution of sodium hydrogencarbonate and the organic layer is extracted with chloroform. The chloroform layer is washed with water, dried and chloroform is removed by distillation. The residue thus obtained is dissolved in 30 ml of ethanol and dried hydrogen chloride gas is blown into the ethanol solution. The crystals thus precipitated are collected by filtration and recrystallized from methanol-ethanol to obtain 3.2 g (yield: 61%) of 7-{3-[4-(3,4,5-trimethoxyphenyl)-piperazinyl]propoxy}-3,4-dihydrocarbostyril dihydrochloride in the form of colorless needle-like crystals with a melting point of 225°-227° C.

reactant | 3-chloropropoxy-3,4-dihydrocarbostyril | ClCCCOC1C(NC2=CC=CC=C2C1)=O | C12H14ClNO2
reactant | 4-(3,4,5-trimethoxyphenyl)piperazine | 2.6 g | COC=1C=C(C=C(C1OC)OC)N1CCNCC1 | C13H20N2O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 30 ml | C(C)O | C2H6O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | pyridine | 1 g | N1=CC=CC=C1 | C5H5N
product | 7-{3-[4-(3,4,5-trimethoxyphenyl)-piperazinyl]propoxy}-3,4-dihydrocarbostyril dihydrochloride | 3.2 g, yield: 61% | Cl.Cl.COC=1C=C(C=C(C1OC)OC)N1CCN(CC1)CCCOC1=CC=C2CCC(NC2=C1)=O | InChI=1S/C25H33N3O5.2ClH/c1-30-22-15-19(16-23(31-2)25(22)32-3)28-12-10-27(11-13-28)9-4-14-33-20-7-5-18-6-8-24(29)26-21(18)17-20;;/h5,7,15-17H,4,6,8-14H2,1-3H3,(H,26,29);2*1H
